US08247556B2
2-Fluoro-N-(2-methyl-benzothiazol-5-yl)-nicotinamide (100 mg, 0.348 mmol) was dissolved in NMP (0.5 mL), then C-(1H-pyrazolo[3,4-b]pyridin-4-yl)-methylamine (52 mg, 0.348 mmol) and DIEA (91 μL, 0.522 mmol) were added. The reaction was heated at 120° C. for 20 h. Additional C-(1H-pyrazolo[3,4-b]pyridin-4-yl)-methylamine (25 mg, 0.174 mmol) and DIEA (91 μL, 0.522 mmol) were added and the mixture was heated at 120° C. for another 23 h. The mixture was partitioned between H2O and EtOAc then extracted with EtOAc. The organic layer was washed with brine and dried over MgSO4. Purification was achieved by preparative TLC (10% MeOH/CH2Cl2), followed by trituration with CH2Cl2 to give N-(2-methyl-1,3-benzothiazol-5-yl)-2-((1H-pyrazolo[3,4-b]pyridin-4-ylmethyl)amino)-3-pyridinecarboxamide as a light yellow solid. MS m/e 416.0 (M+H)+. Calc'd for C21H17N7O—415.48.

reactant | 2-Fluoro-N-(2-methyl-benzothiazol-5-yl)-nicotinamide | 0.348 mmol, 100 mg | FC1=C(C(=O)NC=2C=CC3=C(N=C(S3)C)C2)C=CC=N1 | C14H10FN3OS
reactant | C-(1H-pyrazolo[3,4-b]pyridin-4-yl)-methylamine | 0.348 mmol, 52 mg | N1N=CC=2C1=NC=CC2CN | C7H8N4
reactant | DIEA | 0.522 mmol, 91 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | C-(1H-pyrazolo[3,4-b]pyridin-4-yl)-methylamine | 0.174 mmol, 25 mg | N1N=CC=2C1=NC=CC2CN | C7H8N4
reactant | DIEA | 0.522 mmol, 91 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
product | N-(2-methyl-1,3-benzothiazol-5-yl)-2-((1H-pyrazolo[3,4-b]pyridin-4-ylmethyl)amino)-3-pyridinecarboxamide | CC=1SC2=C(N1)C=C(C=C2)NC(=O)C=2C(=NC=CC2)NCC2=C1C(=NC=C2)NN=C1 | C21H17N7OS
